data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_336846_0,[C:1]([C:4]1([N:9]([N:5]([H:11])[H:12])[H:15])[N:2]([H:10])[C:3]1([N:6]([H:13])[H:14])/[C:8](=[N:7]/[H:16])[H:17])([H:18])([H:19])[H:20]>>[C:1](/[C:4]([N:2](/[C:3]([N:6]([H:13])[H:14])=[C:8](\[N:7]([H:15])[H:16])[H:17])[H:10])=[N:9]/[N:5]([H:11])[H:12])([H:18])([H:19])[H:20],18.36818000003049
MR_327555_0,[C:1]1([H:8])([H:9])[n:4]2[n:5]1[c:6]([C:2]([H:10])([H:11])[H:14])[c:7]2[C:3]([H:12])([H:13])[H:15]>>[C:1]1([H:8])([H:9])[N:4]2[N:5]=[C:6]([C:2]([H:10])([H:11])[H:14])[C:7]12[C:3]([H:12])([H:13])[H:15],29.23083249999891
MR_680605_0,[C:1](/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[C:2]([H:11])([H:12])[H:13])([O:5][H:9])([O:6][H:8])[H:10]>>[C:1](=[C:4]([C:3]([H:14])([H:15])[H:16])[N:7]([C:2]([H:11])([H:12])[H:13])[H:10])([O:5][H:9])[O:6][H:8],64.61806750004186
MR_531090_1,[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:2](/[C:6]([C:5]([H:20])([H:21])[H:22])=[C:8](\[N:7]([H:11])[H:12])[H:13])([H:10])[O:9]1>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([O:9]/[C:2](=[C:6]([C:5]([H:20])([H:21])[H:22])\[C:8](=[N:7]\[H:12])[H:13])[H:10])[H:11],56.72411749999739
MR_143312_2,[C:1]([O:6][O:4][O:5][C:2](=[C:3]([H:11])[H:12])[H:7])([H:8])([H:9])[H:10]>>[C:1]([O:6][O:5][O:4][C:2](=[C:3]([H:11])[H:12])[H:7])([H:8])([H:9])[H:10],68.77776499999072
MR_693535_1,[C:1]([C:3]([N:6]([H:11])[H:12])=[O:8])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:7]/[N:5]([H:9])[H:10])([H:13])[H:14]>>[C:1](=[C:4]([C:2]([H:15])([H:16])[H:17])[N:7]([C:3]([N:6]([H:11])[H:12])=[O:8])[N:5]([H:9])[H:10])([H:13])[H:14],65.80718000003586
MR_696173_1,[C:1](=[C:2]([C:5](=[C:6](/[N:4]([H:13])[H:14])[H:16])\[H:15])/[O:8][H:10])(\[N:3]([H:11])[H:12])[O:7][H:9]>>[C@:1]1([N:3]([H:11])[H:12])([O:7][H:9])[C:2]([O:8][H:10])=[C:5]([H:15])[C@@:6]1([N:4]([H:13])[H:14])[H:16],53.32369500002201
MR_72953_1,[C:1]([C:3]([H:16])([H:17])[H:18])([C:5]([N:4]=[O:8])([C:6]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:19])[H:20])[O:9][H:10])([H:11])[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:5]([C:6]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:19])[H:20])=[O:9])[O:8][H:10])([H:11])[H:12],23.277112500013857
MR_134369_0,[C:1](=[C:4]([C:3]([N:2]([H:7])[H:8])([O:5][H:6])[H:11])[H:12])([H:9])[H:10]>>[C:1](/[C:4](=[C:3](/[N:2]([H:7])[H:8])[H:11])[H:12])([O:5][H:6])([H:9])[H:10],50.16297750001215
MR_493916_0,[C:1]([N:4]([C:2]([H:11])([H:12])[H:13])[N:5]([N:6][N:7][C:3]([H:15])([H:16])[H:17])[H:8])([H:9])([H:10])[H:14]>>[C:1]([N:4]([C:2]([H:11])([H:12])[H:13])[N:7]([C:3]([H:15])([H:16])[H:17])[N:6][N:5][H:8])([H:9])([H:10])[H:14],62.446917499994754
MR_508972_1,[C@:1]1([C:3](/[C:7](=[C:6](\[N:5]([H:11])[H:12])[H:15])[H:16])([H:13])[H:14])([C:4]([H:17])([H:18])[H:19])[C:2]([H:9])([H:10])[O:8]1>>[C:1]1([C:3](/[C:7](=[C:6](\[N:5]([H:11])[H:12])[H:15])[H:16])([H:13])[H:14])([C:4]([H:17])([H:18])[H:19])[C:2]([H:9])([H:10])[O:8]1,65.48150750000204
MR_257182_0,[C:1]([N:2]([H:7])[H:8])([O:3][O:4][H:6])=[O:5]>>[C:1]1([N:2]([H:7])[H:8])([O:5][H:6])[O:3][O:4]1,41.84170000001217
MR_49617_0,[C:1]1([C:6](=[O:7])[H:11])([H:8])[C@@:2]([C:4]([H:12])([H:13])[H:17])([H:9])[C@:3]1([C:5]([H:14])([H:15])[H:16])[H:10]>>[C:1](\[C@@:2]([C:4]([H:12])([H:13])[H:17])([C:6](=[O:7])[H:11])[H:9])(=[C:3](/[C:5]([H:14])([H:15])[H:16])[H:10])[H:8],71.75462500000108
MR_105566_0,[C:1]([O:6]/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:7]/[C:5]([C:3]([H:15])([H:16])[H:17])=[O:8])([H:9])([H:10])[H:11]>>[C:1]([O:6][C:4]1([C:2]([H:12])([H:13])[H:14])[N:7]=[C:5]([C:3]([H:15])([H:16])[H:17])[O:8]1)([H:9])([H:10])[H:11],29.47241999999534
MR_436427_2,[C@@:1]([C@@:2]([N:5]([H:13])[H:14])([N:8]=[C:6]([H:18])[H:19])[H:10])([N:4]([H:11])[H:12])([O:7][C:3]([H:15])([H:16])[H:17])[H:9]>>[C@:1]([C@:2]([N:5]([H:13])[H:14])([O:7][C:3]([H:15])([H:16])[H:17])[H:10])([N:4]([H:11])[H:12])([N:8]=[C:6]([H:18])[H:19])[H:9],71.86318249997669
MR_44904_0,[C:1]([N:3]([C:2]([H:8])([H:9])[H:10])/[C:4](=[N:5]\[H:6])[H:7])([H:11])([H:12])[H:13]>>[C:1]([N:5](/[C:4](=[N:3]/[C:2]([H:8])([H:9])[H:10])[H:7])[H:6])([H:11])([H:12])[H:13],70.81776750001225
MR_260216_2,[C:1]([C:2]([C:7](=[O:8])[H:12])([H:10])[H:11])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:6]([C:5]([H:19])([H:20])[H:21])[H:9]>>[C:1](/[C:2](=[C:7](\[O:8][H:9])[H:12])[H:10])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:6]([C:5]([H:19])([H:20])[H:21])[H:11],40.25914499997711
MR_522754_0,[C:1](/[C:2](=[N:3]/[H:7])[H:8])([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[N:6]([H:13])[H:14]>>[C:1](\[C:2]([N:3]([H:7])[H:10])([N:6]([H:13])[H:14])[H:8])(=[N:4]/[H:9])[N:5]([H:11])[H:12],34.21318250001093
MR_60787_2,[C:1](/[C:3](=[C:2](/[O:5][H:7])[N:6]=[C:4]([H:9])[H:10])[H:8])([H:11])([H:12])[H:13]>>[C:1](/[C:3](=[C:2](/[O:5][H:7])[H:8])[N:6]=[C:4]([H:9])[H:10])([H:11])([H:12])[H:13],69.84012250001939
MR_282623_0,[C:1]([C:2]([O:4][H:8])=[O:6])([C:3](=[O:7])[H:11])([O:5][H:9])[H:10]>>[C:1](=[C:3](/[O:7][C:2]([O:4][H:8])=[O:6])[H:11])(\[O:5][H:9])[H:10],65.88875499997258
